### PR TITLE
feat: Add `gradSchwartz`

### PR DESCRIPTION
**Pull request by jstoobysmith**
Add the grad of a Schwartz map.

### CODE REVIEW

**Comment by jstoobysmith** [comment]
t-space-time

**Comment by jstoobysmith** [comment]
RFC

**Comment by jstoobysmith** [comment]
Related to #942

File: PhysLean/SpaceAndTime/Space/Derivatives/Grad.lean [hunk 1]
```diff
@@ -502,4 +503,38 @@ lemma distGrad_apply {d} (f : (Space d) →d[ℝ] ℝ) (ε : 𝓢(Space d, ℝ))
...
+        map_add' v1 v2 := by simp
+        map_smul' a v := by rw [smul_comm]; simp
+        cont := by fun_prop}
+      map_add' v1 v2 := by ext1 v; simp [add_smul]
+      map_smul' a v := by ext1 v; simp [smul_smul]
+      cont := continuous_clm_apply.mpr <| fun y => by
+        simp only [ContinuousLinearMap.coe_mk', LinearMap.coe_mk, AddHom.coe_mk]
+        fun_prop }
+    ∑ i, SchwartzMap.bilinLeftCLM smulCLM (.const (EuclideanSpace.single i 1))
+      (.evalCLM ℝ (Space d) ℝ (basis i) (.fderivCLM ℝ (E := _) (F := ℝ) η))
```
Comment (morrison-daniel) [inline PhysLean/SpaceAndTime/Space/Derivatives/Grad.lean]: I'm guessing this looks this way because we need to move from Schwartz maps on `Space` to Schwartz maps on `EuclideanSpace`. I think for now let's move `smulCLM` to its own definition to make this definition easier to read and to make future lemmas easier to write. I believe there is talk of mathlib modifying the definition of the derivative to allow derivatives of maps on `AddTorsor` into maps on the underlying `Module` which would help clean this up significantly. I think it's a bit ways away so we should use a temp fix but it might be good for us to help push that effort forward.

**Review by morrison-daniel — COMMENTED** [review]
Besides the challenges of swapping from `Space` to `EuclideanSpace` this looks good.

By the way, you can add/remove multiple tags in a single comment by putting them on different lines.

**Comment by morrison-daniel** [comment]
awaiting-author

File: PhysLean/SpaceAndTime/Space/Derivatives/Grad.lean (hunk 1 above)
Comment (jstoobysmith) [reply PhysLean/SpaceAndTime/Space/Derivatives/Grad.lean]: Thanks - I golfed this, to get rid of `smulCLM` altogether.

**Comment by jstoobysmith** [comment]
-awaiting-author

**Review by morrison-daniel — APPROVED** [review]
